US05885936
Step A: Preparation of 7-bromo-5,8-dimethyltetralone
To a solution of 15.0 g of 5,8-dimethyltetralone (purchased from Wiley Organics) in 250 mL of methylene chloride was added 28.7 g of aluminum chloride (purchased from Aldrich Chemical Co.). The mixture was cooled to 0° C. and then a solution of 15.2 g bromine in 90 mL of methylene chloride was added dropwise. After the mixture was stirred at room temperature for 2 h, it was cooled to 0° C. and then approximately 200 g of ice was added. The resulting mixture was filtered. The organic layer was separated and was washed with 1N aqueous sodium hydroxide, dried over MgSO4, filtered, and concentrated under reduced pressure. The resulting solid was crystallized from 1-chlorobutane to give 21.8 g of the title compound of Step A as a solid melting at 64°-68° C. 1H NMR (CDCl3): δ 2.11 (m, 2H), 2.25 (s, 3H), 2.64 (t, 2H), 2.66 (s, 3H), 2.77 (t, 2H), 7.53 (s, 1H).

reactant | 5,8-dimethyltetralone | 15.0 g | CC1=C2CCCC(C2=C(C=C1)C)=O | C12H14O
reactant | aluminum chloride | 28.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromine | 15.2 g | BrBr | Br2
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 90 mL | C(Cl)Cl | CH2Cl2
product | 7-bromo-5,8-dimethyltetralone | 21.8 g | BrC1=CC(=C2CCCC(C2=C1C)=O)C | C12H13BrO
